US05011851
A mixture of methyl [3-(2-(4,5-diphenyl-1H-imidazol-2-yl)ethyl]phenoxy]acetate (l.20 g, 3 mmol), 5N NaOH solution (l.74 mL, 9 mmol) and methanol (30 mL) was heated to reflux on a steam bath for 20 minutes. The solvent was removed, the residue diluted with water and acidified to pH=1 with 2N HCl solution. A yellow solid was filtered off and subjected to chromatography on a column of silica gel using a mixture of chloroform and methanol (9:1) as eluent to give [3-[2-(4,5-diphenyl-1H-imidazol-2-yl)ethyl]phenoxy]-acetic acid (0.42 g, 36%), mp 244°-246° C.

reactant | methyl [3-(2-(4,5-diphenyl-1H-imidazol-2-yl)ethyl]phenoxy]acetate | 3 mmol, 20 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)CCC=1C=C(OCC(=O)OC)C=CC1 | C26H24N2O3
reactant | NaOH | 9 mmol, 5N, 74 mL | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | [3-[2-(4,5-diphenyl-1H-imidazol-2-yl)ethyl]phenoxy]-acetic acid | 0.42 g, 36% | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)CCC=1C=C(OCC(=O)O)C=CC1 | C25H22N2O3
